US09340527B2
Ethyl 1-(1-(6-((trans-4-(tert-butyl)cyclohexyl)oxy)naphthalen-2-yl)ethyl)piperidine-4-carboxylate (100 mg, 0.22 mmol) was dissolved in EtOH (5 mL). Then sodium hydroxide (44 mg, 1.1 mmol, 5.0 eq) in water (0.5 mL) was added. The mixture was stirred at 85° C. for 2 h. Solvent was removed and the residue was dissolved in H2O (3 mL). 1M aqueous HCl was added to adjust pH=7. The mixture was filtrated to give 1-(1-(6-((trans-4-(tert-butyl)cyclohexyl)oxy)naphthalen-2-yl)ethyl)piperidine-4-carboxylic acid as white solid (50 mg, 50%). ESI-MS (M+H+): 438.3. HPLC: 100%. 1H NMR (400 MHz, CD3OD) δ: 7.80-7.78 (m, 2H), 7.34 (d, J=8.8 Hz, 1H), 7.42 (dd, J=8.4, 1.6 Hz, 1H), 7.22 (d, J=2.0 Hz, 1H), 7.11 (dd, J=8.8, 2.0 Hz, 1H), 4.37-4.28 (m, 2H), 3.24-3.17 (m, 2H), 2.82-2.76 (m, 2H), 2.23-2.19 (m, 3H), 1.97-1.84 (m, 5H), 1.71 (d, J=6.8 Hz, 3H), 1.41-1.32 (m, 2H), 1.26-1.16 (m, 3H), 1.10-1.04 (m, 1H), 0.86 (s, 9H).

reactant | Ethyl 1-(1-(6-((trans-4-(tert-butyl)cyclohexyl)oxy)naphthalen-2-yl)ethyl)piperidine-4-carboxylate | 0.22 mmol, 100 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C(C)N1CCC(CC1)C(=O)OCC | C30H43NO3
reactant | sodium hydroxide | 1.1 mmol, 44 mg, 5.0 eq | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | water | 0.5 mL | O | H2O
product | 1-(1-(6-((trans-4-(tert-butyl)cyclohexyl)oxy)naphthalen-2-yl)ethyl)piperidine-4-carboxylic acid | 50 mg, 50% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C(C)N1CCC(CC1)C(=O)O | C28H39NO3
